US06846827B1
6-Carbamoyl-2-chloro-4-[5-(3-fluoro-5-morpholinobenzamido)-2-methylanilino]-pyrimidine
A mixture of N-(3-amino-4-methylphenyl)-3-fluoro-5-morpholinobenzamide (0.33 g), 6-carbamoyl-2,4-dichloropyrimidine (0.212 g), N,N-di-isopropylethylamine (0.53 ml) and n-butanol (5 ml) was stirred and heated to reflux for 36 hours. Water and isohexane were added and the precipitated product was isolated and dried. There was thus obtained the title compound (0.059 g); NMR Spectrum: (DMSOd6) 2.14 (s, 3H), 3.23 (m, 4H), 3.72 (m, 4H), 6.97 (d, 1H), 7.12 (d, 1H), 7.29 (m, 2H), 7.6 (d, 1H), 7.74 (s, 1H), 7.81 (s, 1H), 7.92 (s, 1H), 9.9 (s, 1H), 10.21 (s, 1H); Mass Spectrum: M−H′ 483 & 485.

reactant | N-(3-amino-4-methylphenyl)-3-fluoro-5-morpholinobenzamide | 0.33 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C18H20FN3O2
reactant | 6-carbamoyl-2,4-dichloropyrimidine | 0.212 g | C(N)(=O)C1=CC(=NC(=N1)Cl)Cl | C5H3Cl2N3O
reactant | N,N-di-isopropylethylamine | 0.53 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isohexane | CCCC(C)C | C6H14
solvent | Water | O | H2O
solvent | n-butanol | 5 ml | C(CCC)O | C4H10O
product | 6-Carbamoyl-2-chloro-4-[5-(3-fluoro-5-morpholinobenzamido)-2-methylanilino]-pyrimidine | 0.059 g | C(N)(=O)C1=CC(=NC(=N1)Cl)NC1=C(C=CC(=C1)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)C | C23H22ClFN6O3
